US09290468B2
Step 1: N-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)-4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d]thiazole-6-carboxamide
To a solution of 4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d]thiazole-6-carboxylic acid (519 mg, 1.20 mmol) in CH2Cl2 (10 mL) was added HOBt (254 mg, 1.63 mmol) followed by EDCI (314 mg, 1.63 mmol). The mixture was stirred for 1 h and O-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)hydroxylamine (238 mg, 1.62 mmol) was added. After stirring for 4 h at ambient temperature, the reaction was treated with saturated NH4Cl (aq.). The resultant mixture was extracted with CH2Cl2 (30 mL×3). The combined organic extracts was washed by water (30 mL) and brine (30 mL) sequentially, dried over Na2SO4, filtered and concentrated in vacuo. The crude product (475 mg) was used directly in the next step without further purification.

reactant | 4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d]thiazole-6-carboxylic acid | 1.20 mmol, 519 mg | FC1=C(C(=CC2=C1N=CS2)C(=O)O)NC2=C(C=C(C=C2)I)F | C14H7F2IN2O2S
reactant | HOBt | 1.63 mmol, 254 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 1.63 mmol, 314 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | O-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)hydroxylamine | 1.62 mmol, 238 mg | CC1(OCC(O1)CON)C | C6H13NO3
reactant | NH4Cl | [NH4+].[Cl-]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)-4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d]thiazole-6-carboxamide | CC1(OCC(O1)CONC(=O)C1=CC2=C(N=CS2)C(=C1NC1=C(C=C(C=C1)I)F)F)C | C20H18F2IN3O4S
